*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-22 18:39:15
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L10_1 CTX_L30_0 1.82964a
Cext_2 CTX_L10_1 CTX_L8_0 0.733574a
Cext_3 CTX_L10_1 FILL_L10_0 33.3544a
Cext_4 CTX_L10_1 FILL_L10_3 18.7385a
Cext_5 CTX_L10_1 FILL_L10_4 18.7385a
Cext_6 CTX_L10_1 FILL_L10_6 65.5846a
Cext_7 CTX_L10_1 FILL_L126_0 10.5635a
Cext_8 CTX_L10_1 FILL_L30_0 21.9296a
Cext_9 CTX_L10_1 FILL_L30_1 213.246a
Cext_10 CTX_L10_1 FILL_L30_3 191.316a
Cext_11 CTX_L10_1 FILL_L30_4 0.164424a
Cext_12 CTX_L10_1 FILL_L50_0 4.15062a
Cext_13 CTX_L10_1 FILL_L50_3 1.38049a
Cext_14 CTX_L10_1 FILL_L50_5 8.30124a
Cext_15 CTX_L10_1 FILL_L50_6 0.138756a
Cext_16 CTX_L10_1 FILL_L50_9 4.15062a
Cext_17 CTX_L10_1 FILL_L8_0 85.5914a
Cext_18 CTX_L10_1 FILL_L8_10 164.995a
Cext_19 CTX_L10_1 FILL_L8_7 168.455a
Cext_20 CTX_L10_1 P|PSEG_L10_0|PSEG_L50_0 2.61663a
Cext_21 CTX_L10_1 VSUBS 667.956a
Cext_22 CTX_L30_0 CTX_L30_2 15.3011a
Cext_23 CTX_L30_0 CTX_L8_0 72.4725a
Cext_24 CTX_L30_0 CTX_L8_1 9.42675a
Cext_25 CTX_L30_0 FILL_L10_0 87.7237a
Cext_26 CTX_L30_0 FILL_L10_1 114.479a
Cext_27 CTX_L30_0 FILL_L10_2 105.983a
Cext_28 CTX_L30_0 FILL_L10_3 10.3634a
Cext_29 CTX_L30_0 FILL_L10_5 1.21227a
Cext_30 CTX_L30_0 FILL_L10_6 0.872834a
Cext_31 CTX_L30_0 FILL_L10_7 0.414547a
Cext_32 CTX_L30_0 FILL_L126_0 215.366a
Cext_33 CTX_L30_0 FILL_L30_1 25.5019a
Cext_34 CTX_L30_0 FILL_L50_1 49.2301a
Cext_35 CTX_L30_0 FILL_L50_10 0.265573a
Cext_36 CTX_L30_0 FILL_L50_11 1.28361a
Cext_37 CTX_L30_0 FILL_L50_2 18.0903a
Cext_38 CTX_L30_0 FILL_L50_3 65.9262a
Cext_39 CTX_L30_0 FILL_L50_4 211.071a
Cext_40 CTX_L30_0 FILL_L50_5 5.0378a
Cext_41 CTX_L30_0 FILL_L50_6 17.1749a
Cext_42 CTX_L30_0 FILL_L50_7 374.32a
Cext_43 CTX_L30_0 FILL_L50_8 0.979344a
Cext_44 CTX_L30_0 FILL_L8_0 0.905087a
Cext_45 CTX_L30_0 FILL_L8_1 0.275016a
Cext_46 CTX_L30_0 FILL_L8_2 16.1439a
Cext_47 CTX_L30_0 FILL_L8_3 13.4094a
Cext_48 CTX_L30_0 FILL_L8_4 2.02737a
Cext_49 CTX_L30_0 FILL_L8_5 47.3585a
Cext_50 CTX_L30_0 FILL_L8_6 41.8895a
Cext_51 CTX_L30_0 P|PSEG_L10_0|PSEG_L50_0 134.664a
Cext_52 CTX_L30_0 VSUBS 634.93a
Cext_53 CTX_L30_2 CTX_L8_0 4.31803a
Cext_54 CTX_L30_2 CTX_L8_1 53.6301a
Cext_55 CTX_L30_2 FILL_L10_5 14.0202a
Cext_56 CTX_L30_2 FILL_L10_6 7.65293a
Cext_57 CTX_L30_2 FILL_L10_7 10.03a
Cext_58 CTX_L30_2 FILL_L10_8 111.612a
Cext_59 CTX_L30_2 FILL_L126_0 81.569a
Cext_60 CTX_L30_2 FILL_L30_2 8.09431a
Cext_61 CTX_L30_2 FILL_L30_3 9.84429a
Cext_62 CTX_L30_2 FILL_L30_4 5.8279a
Cext_63 CTX_L30_2 FILL_L50_10 4.04463a
Cext_64 CTX_L30_2 FILL_L50_11 364.207a
Cext_65 CTX_L30_2 FILL_L50_7 18.2112a
Cext_66 CTX_L30_2 FILL_L50_8 5.77804a
Cext_67 CTX_L30_2 FILL_L8_12 14.1937a
Cext_68 CTX_L30_2 FILL_L8_6 0.564485a
Cext_69 CTX_L30_2 P|PSEG_L10_0|PSEG_L50_0 16.821a
Cext_70 CTX_L30_2 VSUBS 349.444a
Cext_71 CTX_L8_0 CTX_L8_1 55.3806a
Cext_72 CTX_L8_0 FILL_L10_0 56.2049a
Cext_73 CTX_L8_0 FILL_L10_1 1.98668a
Cext_74 CTX_L8_0 FILL_L10_3 0.748452a
Cext_75 CTX_L8_0 FILL_L10_4 0.598762a
Cext_76 CTX_L8_0 FILL_L10_5 5.08364a
Cext_77 CTX_L8_0 FILL_L10_6 110.466a
Cext_78 CTX_L8_0 FILL_L10_7 5.08364a
Cext_79 CTX_L8_0 FILL_L126_0 41.0319a
Cext_80 CTX_L8_0 FILL_L30_0 0.72622a
Cext_81 CTX_L8_0 FILL_L30_1 5.83738a
Cext_82 CTX_L8_0 FILL_L30_2 2.94795a
Cext_83 CTX_L8_0 FILL_L30_3 4.7701a
Cext_84 CTX_L8_0 FILL_L30_4 2.99425a
Cext_85 CTX_L8_0 FILL_L50_1 6.3756a
Cext_86 CTX_L8_0 FILL_L50_10 2.46542a
Cext_87 CTX_L8_0 FILL_L50_11 1.73384a
Cext_88 CTX_L8_0 FILL_L50_2 0.444454a
Cext_89 CTX_L8_0 FILL_L50_3 2.68844a
Cext_90 CTX_L8_0 FILL_L50_5 0.942168a
Cext_91 CTX_L8_0 FILL_L50_6 1.78191a
Cext_92 CTX_L8_0 FILL_L50_7 3.40666a
Cext_93 CTX_L8_0 FILL_L50_8 3.17646a
Cext_94 CTX_L8_0 FILL_L8_0 4.34114a
Cext_95 CTX_L8_0 FILL_L8_1 10.7905a
Cext_96 CTX_L8_0 FILL_L8_10 8.34834a
Cext_97 CTX_L8_0 FILL_L8_11 10.7905a
Cext_98 CTX_L8_0 FILL_L8_2 19.6411a
Cext_99 CTX_L8_0 FILL_L8_4 10.7905a
Cext_100 CTX_L8_0 FILL_L8_5 19.6411a
Cext_101 CTX_L8_0 FILL_L8_7 8.34834a
Cext_102 CTX_L8_0 FILL_L8_8 10.7905a
Cext_103 CTX_L8_0 FILL_L8_9 10.7905a
Cext_104 CTX_L8_0 P|PSEG_L10_0|PSEG_L50_0 50.2545a
Cext_105 CTX_L8_0 VSUBS 947.444a
Cext_106 CTX_L8_1 FILL_L10_5 44.3951a
Cext_107 CTX_L8_1 FILL_L10_6 1.05222a
Cext_108 CTX_L8_1 FILL_L10_7 41.6617a
Cext_109 CTX_L8_1 FILL_L10_8 1.33601a
Cext_110 CTX_L8_1 FILL_L126_0 32.4095a
Cext_111 CTX_L8_1 FILL_L30_2 0.284731a
Cext_112 CTX_L8_1 FILL_L30_3 0.516255a
Cext_113 CTX_L8_1 FILL_L30_4 0.334574a
Cext_114 CTX_L8_1 FILL_L50_10 1.96473a
Cext_115 CTX_L8_1 FILL_L50_11 12.0593a
Cext_116 CTX_L8_1 FILL_L50_7 5.94249a
Cext_117 CTX_L8_1 FILL_L50_8 1.99149a
Cext_118 CTX_L8_1 FILL_L8_12 31.1188a
Cext_119 CTX_L8_1 FILL_L8_5 1.58514a
Cext_120 CTX_L8_1 FILL_L8_6 8.80631a
Cext_121 CTX_L8_1 P|PSEG_L10_0|PSEG_L50_0 14.486a
Cext_122 CTX_L8_1 VSUBS 582.123a
Cext_123 FILL_L10_0 FILL_L10_1 20.8343a
Cext_124 FILL_L10_0 FILL_L10_3 27.9352a
Cext_125 FILL_L10_0 FILL_L10_6 15.8424a
Cext_126 FILL_L10_0 FILL_L126_0 14.5852a
Cext_127 FILL_L10_0 FILL_L30_0 21.4973a
Cext_128 FILL_L10_0 FILL_L30_2 0.71214a
Cext_129 FILL_L10_0 FILL_L50_0 5.81087a
Cext_130 FILL_L10_0 FILL_L50_1 42.5092a
Cext_131 FILL_L10_0 FILL_L50_2 0.472775a
Cext_132 FILL_L10_0 FILL_L50_3 20.9144a
Cext_133 FILL_L10_0 FILL_L8_0 13.3029a
Cext_134 FILL_L10_0 FILL_L8_1 111.179a
Cext_135 FILL_L10_0 P|PSEG_L10_0|PSEG_L50_0 1.23398a
Cext_136 FILL_L10_0 VSUBS 378.129a
Cext_137 FILL_L10_1 FILL_L10_2 27.9352a
Cext_138 FILL_L10_1 FILL_L126_0 5.99237a
Cext_139 FILL_L10_1 FILL_L50_1 3.87897a
Cext_140 FILL_L10_1 FILL_L50_4 2.40937a
Cext_141 FILL_L10_1 FILL_L50_6 0.355998a
Cext_142 FILL_L10_1 FILL_L8_2 67.225a
Cext_143 FILL_L10_1 FILL_L8_5 5.73666a
Cext_144 FILL_L10_1 P|PSEG_L10_0|PSEG_L50_0 10.7364a
Cext_145 FILL_L10_1 VSUBS 84.5009a
Cext_146 FILL_L10_2 FILL_L50_2 7.75794a
Cext_147 FILL_L10_2 FILL_L50_7 8.25909a
Cext_148 FILL_L10_2 FILL_L8_3 67.225a
Cext_149 FILL_L10_2 FILL_L8_6 5.73666a
Cext_150 FILL_L10_2 P|PSEG_L10_0|PSEG_L50_0 10.7364a
Cext_151 FILL_L10_2 VSUBS 103.603a
Cext_152 FILL_L10_3 FILL_L10_4 27.9352a
Cext_153 FILL_L10_3 FILL_L126_0 7.95585a
Cext_154 FILL_L10_3 FILL_L30_1 62.3613a
Cext_155 FILL_L10_3 FILL_L50_5 12.0436a
Cext_156 FILL_L10_3 FILL_L50_7 0.99051a
Cext_157 FILL_L10_3 FILL_L8_4 67.225a
Cext_158 FILL_L10_3 FILL_L8_5 0.984963a
Cext_159 FILL_L10_3 FILL_L8_6 0.440796a
Cext_160 FILL_L10_3 FILL_L8_7 4.59338a
Cext_161 FILL_L10_3 VSUBS 71.9678a
Cext_162 FILL_L10_4 FILL_L10_6 27.9352a
Cext_163 FILL_L10_4 FILL_L126_0 11.4975a
Cext_164 FILL_L10_4 FILL_L30_1 31.1806a
Cext_165 FILL_L10_4 FILL_L50_5 6.02178a
Cext_166 FILL_L10_4 FILL_L50_6 0.630303a
Cext_167 FILL_L10_4 FILL_L50_7 0.182916a
Cext_168 FILL_L10_4 FILL_L8_7 4.59338a
Cext_169 FILL_L10_4 FILL_L8_8 67.225a
Cext_170 FILL_L10_4 P|PSEG_L10_0|PSEG_L50_0 11.1197a
Cext_171 FILL_L10_4 VSUBS 73.4541a
Cext_172 FILL_L10_5 FILL_L10_6 20.8343a
Cext_173 FILL_L10_5 FILL_L10_7 27.9352a
Cext_174 FILL_L10_5 FILL_L126_0 18.8348a
Cext_175 FILL_L10_5 FILL_L30_2 2.6737a
Cext_176 FILL_L10_5 FILL_L50_11 5.58574a
Cext_177 FILL_L10_5 FILL_L50_6 0.688079a
Cext_178 FILL_L10_5 FILL_L50_8 21.7612a
Cext_179 FILL_L10_5 FILL_L8_5 0.623543a
Cext_180 FILL_L10_5 P|PSEG_L10_0|PSEG_L50_0 17.859a
Cext_181 FILL_L10_5 VSUBS 94.7054a
Cext_182 FILL_L10_6 FILL_L10_7 20.8343a
Cext_183 FILL_L10_6 FILL_L126_0 106.096a
Cext_184 FILL_L10_6 FILL_L30_2 168.484a
Cext_185 FILL_L10_6 FILL_L30_3 261.344a
Cext_186 FILL_L10_6 FILL_L30_4 111.779a
Cext_187 FILL_L10_6 FILL_L50_10 1.1954a
Cext_188 FILL_L10_6 FILL_L50_11 0.813995a
Cext_189 FILL_L10_6 FILL_L50_3 3.34181a
Cext_190 FILL_L10_6 FILL_L50_8 2.39081a
Cext_191 FILL_L10_6 FILL_L50_9 88.6136a
Cext_192 FILL_L10_6 FILL_L8_10 25.9358a
Cext_193 FILL_L10_6 FILL_L8_11 117.513a
Cext_194 FILL_L10_6 FILL_L8_9 117.513a
Cext_195 FILL_L10_6 P|PSEG_L10_0|PSEG_L50_0 101.812a
Cext_196 FILL_L10_6 VSUBS 529.872a
Cext_197 FILL_L10_7 FILL_L10_8 27.9352a
Cext_198 FILL_L10_7 FILL_L126_0 16.9448a
Cext_199 FILL_L10_7 FILL_L30_3 0.343267a
Cext_200 FILL_L10_7 FILL_L30_4 1.33685a
Cext_201 FILL_L10_7 FILL_L50_10 14.9057a
Cext_202 FILL_L10_7 FILL_L50_11 5.43783a
Cext_203 FILL_L10_7 FILL_L50_8 1.9454a
Cext_204 FILL_L10_7 FILL_L8_5 0.260032a
Cext_205 FILL_L10_7 P|PSEG_L10_0|PSEG_L50_0 2.82948a
Cext_206 FILL_L10_7 VSUBS 89.6945a
Cext_207 FILL_L10_8 FILL_L126_0 2.42592a
Cext_208 FILL_L10_8 FILL_L50_11 7.38035a
Cext_209 FILL_L10_8 FILL_L50_7 0.439029a
Cext_210 FILL_L10_8 FILL_L8_12 67.225a
Cext_211 FILL_L10_8 P|PSEG_L10_0|PSEG_L50_0 8.50758a
Cext_212 FILL_L10_8 VSUBS 111.401a
Cext_213 FILL_L126_0 FILL_L30_1 10.4695a
Cext_214 FILL_L126_0 FILL_L30_2 31.3757a
Cext_215 FILL_L126_0 FILL_L30_3 15.7258a
Cext_216 FILL_L126_0 FILL_L30_4 18.3091a
Cext_217 FILL_L126_0 FILL_L50_1 38.473a
Cext_218 FILL_L126_0 FILL_L50_10 41.034a
Cext_219 FILL_L126_0 FILL_L50_11 121.146a
Cext_220 FILL_L126_0 FILL_L50_3 42.3248a
Cext_221 FILL_L126_0 FILL_L50_4 57.7242a
Cext_222 FILL_L126_0 FILL_L50_5 76.9517a
Cext_223 FILL_L126_0 FILL_L50_6 68.2258a
Cext_224 FILL_L126_0 FILL_L50_7 132.961a
Cext_225 FILL_L126_0 FILL_L50_8 65.4862a
Cext_226 FILL_L126_0 FILL_L50_9 59.8344a
Cext_227 FILL_L126_0 FILL_L8_10 0.224451a
Cext_228 FILL_L126_0 FILL_L8_11 0.203604a
Cext_229 FILL_L126_0 FILL_L8_12 1.23424a
Cext_230 FILL_L126_0 FILL_L8_4 0.547218a
Cext_231 FILL_L126_0 FILL_L8_5 4.70902a
Cext_232 FILL_L126_0 FILL_L8_7 3.1817a
Cext_233 FILL_L126_0 FILL_L8_8 0.740083a
Cext_234 FILL_L126_0 FILL_L8_9 0.203604a
Cext_235 FILL_L126_0 P|PSEG_L10_0|PSEG_L50_0 273.841a
Cext_236 FILL_L126_0 VSUBS 983.525a
Cext_237 FILL_L30_0 FILL_L30_1 49.3393a
Cext_238 FILL_L30_0 FILL_L50_0 48.1869a
Cext_239 FILL_L30_0 FILL_L50_1 1.76412a
Cext_240 FILL_L30_0 FILL_L8_0 22.5927a
Cext_241 FILL_L30_0 VSUBS 118.776a
Cext_242 FILL_L30_1 FILL_L30_3 49.3393a
Cext_243 FILL_L30_1 FILL_L50_3 3.05982a
Cext_244 FILL_L30_1 FILL_L50_5 688.384a
Cext_245 FILL_L30_1 FILL_L8_0 16.9743a
Cext_246 FILL_L30_1 FILL_L8_4 8.0513a
Cext_247 FILL_L30_1 FILL_L8_7 94.2883a
Cext_248 FILL_L30_1 FILL_L8_8 4.02565a
Cext_249 FILL_L30_1 P|PSEG_L10_0|PSEG_L50_0 13.039a
Cext_250 FILL_L30_1 VSUBS 331.372a
Cext_251 FILL_L30_2 FILL_L30_3 19.2731a
Cext_252 FILL_L30_2 FILL_L30_4 19.2731a
Cext_253 FILL_L30_2 FILL_L50_3 1.47465a
Cext_254 FILL_L30_2 FILL_L50_8 3.05982a
Cext_255 FILL_L30_2 FILL_L50_9 3.78756a
Cext_256 FILL_L30_2 P|PSEG_L10_0|PSEG_L50_0 26.6858a
Cext_257 FILL_L30_2 VSUBS 43.0468a
Cext_258 FILL_L30_3 FILL_L30_4 13.8767a
Cext_259 FILL_L30_3 FILL_L50_9 640.197a
Cext_260 FILL_L30_3 FILL_L8_10 98.9344a
Cext_261 FILL_L30_3 FILL_L8_11 8.0513a
Cext_262 FILL_L30_3 FILL_L8_7 3.40816a
Cext_263 FILL_L30_3 FILL_L8_9 8.0513a
Cext_264 FILL_L30_3 P|PSEG_L10_0|PSEG_L50_0 0.650781a
Cext_265 FILL_L30_3 VSUBS 314.446a
Cext_266 FILL_L30_4 FILL_L50_10 2.14188a
Cext_267 FILL_L30_4 FILL_L50_9 2.65129a
Cext_268 FILL_L30_4 P|PSEG_L10_0|PSEG_L50_0 19.2137a
Cext_269 FILL_L30_4 VSUBS 48.5172a
Cext_270 FILL_L50_0 FILL_L50_1 6.9198a
Cext_271 FILL_L50_0 FILL_L50_5 63.2667a
Cext_272 FILL_L50_0 FILL_L8_0 9.54106a
Cext_273 FILL_L50_0 VSUBS 100.317a
Cext_274 FILL_L50_1 FILL_L50_2 6.9198a
Cext_275 FILL_L50_1 FILL_L50_3 24.7136a
Cext_276 FILL_L50_1 FILL_L50_4 24.7136a
Cext_277 FILL_L50_1 FILL_L8_2 0.408276a
Cext_278 FILL_L50_1 P|PSEG_L10_0|PSEG_L50_0 3.51312a
Cext_279 FILL_L50_1 VSUBS 150.252a
Cext_280 FILL_L50_10 FILL_L50_11 17.7938a
Cext_281 FILL_L50_10 FILL_L50_8 24.7136a
Cext_282 FILL_L50_10 P|PSEG_L10_0|PSEG_L50_0 24.7149a
Cext_283 FILL_L50_10 VSUBS 51.444a
Cext_284 FILL_L50_11 FILL_L50_7 35.5875a
Cext_285 FILL_L50_11 FILL_L50_8 24.7136a
Cext_286 FILL_L50_11 FILL_L8_12 1.9752a
Cext_287 FILL_L50_11 P|PSEG_L10_0|PSEG_L50_0 25.7626a
Cext_288 FILL_L50_11 VSUBS 218.169a
Cext_289 FILL_L50_2 FILL_L50_7 35.5875a
Cext_290 FILL_L50_2 FILL_L8_3 0.816553a
Cext_291 FILL_L50_2 P|PSEG_L10_0|PSEG_L50_0 0.130796a
Cext_292 FILL_L50_2 VSUBS 61.6012a
Cext_293 FILL_L50_3 FILL_L50_4 24.7136a
Cext_294 FILL_L50_3 FILL_L50_5 24.7136a
Cext_295 FILL_L50_3 VSUBS 44.1375a
Cext_296 FILL_L50_4 FILL_L50_6 24.7136a
Cext_297 FILL_L50_4 FILL_L50_7 24.7136a
Cext_298 FILL_L50_4 VSUBS 8.79577a
Cext_299 FILL_L50_5 FILL_L50_6 5.69094a
Cext_300 FILL_L50_5 FILL_L50_7 12.3753a
Cext_301 FILL_L50_5 FILL_L50_9 63.2667a
Cext_302 FILL_L50_5 FILL_L8_0 8.91444a
Cext_303 FILL_L50_5 FILL_L8_7 3.33679a
Cext_304 FILL_L50_5 P|PSEG_L10_0|PSEG_L50_0 8.37235a
Cext_305 FILL_L50_5 VSUBS 216.79a
Cext_306 FILL_L50_6 FILL_L50_7 24.7136a
Cext_307 FILL_L50_6 FILL_L50_8 24.7136a
Cext_308 FILL_L50_6 FILL_L8_5 0.893661a
Cext_309 FILL_L50_6 P|PSEG_L10_0|PSEG_L50_0 97.9987a
Cext_310 FILL_L50_6 VSUBS 35.7773a
Cext_311 FILL_L50_7 FILL_L8_6 4.6396a
Cext_312 FILL_L50_7 P|PSEG_L10_0|PSEG_L50_0 36.2389a
Cext_313 FILL_L50_7 VSUBS 193.162a
Cext_314 FILL_L50_8 P|PSEG_L10_0|PSEG_L50_0 35.287a
Cext_315 FILL_L50_8 VSUBS 36.2336a
Cext_316 FILL_L50_9 FILL_L8_7 2.71016a
Cext_317 FILL_L50_9 P|PSEG_L10_0|PSEG_L50_0 55.0947a
Cext_318 FILL_L50_9 VSUBS 207.634a
Cext_319 FILL_L8_0 FILL_L8_1 19.9134a
Cext_320 FILL_L8_0 FILL_L8_7 21.1082a
Cext_321 FILL_L8_0 VSUBS 254.739a
Cext_322 FILL_L8_1 FILL_L8_4 19.9134a
Cext_323 FILL_L8_1 VSUBS 151.472a
Cext_324 FILL_L8_10 FILL_L8_11 19.9134a
Cext_325 FILL_L8_10 FILL_L8_7 21.1082a
Cext_326 FILL_L8_10 FILL_L8_9 19.9134a
Cext_327 FILL_L8_10 VSUBS 436.318a
Cext_328 FILL_L8_11 FILL_L8_9 19.9134a
Cext_329 FILL_L8_11 VSUBS 151.472a
Cext_330 FILL_L8_12 VSUBS 168.094a
Cext_331 FILL_L8_2 FILL_L8_3 19.9134a
Cext_332 FILL_L8_2 FILL_L8_5 19.9134a
Cext_333 FILL_L8_2 VSUBS 143.785a
Cext_334 FILL_L8_3 FILL_L8_6 19.9134a
Cext_335 FILL_L8_3 VSUBS 160.185a
Cext_336 FILL_L8_4 FILL_L8_7 19.9134a
Cext_337 FILL_L8_4 FILL_L8_8 19.9134a
Cext_338 FILL_L8_4 VSUBS 134.885a
Cext_339 FILL_L8_5 FILL_L8_6 19.9134a
Cext_340 FILL_L8_5 P|PSEG_L10_0|PSEG_L50_0 8.2878a
Cext_341 FILL_L8_5 VSUBS 142.611a
Cext_342 FILL_L8_6 P|PSEG_L10_0|PSEG_L50_0 8.2878a
Cext_343 FILL_L8_6 VSUBS 153.666a
Cext_344 FILL_L8_7 FILL_L8_8 19.9134a
Cext_345 FILL_L8_7 P|PSEG_L10_0|PSEG_L50_0 1.38589a
Cext_346 FILL_L8_7 VSUBS 418.735a
Cext_347 FILL_L8_8 FILL_L8_9 19.9134a
Cext_348 FILL_L8_8 P|PSEG_L10_0|PSEG_L50_0 1.21931a
Cext_349 FILL_L8_8 VSUBS 134.885a
Cext_350 FILL_L8_9 VSUBS 134.885a
Cext_351 P|PSEG_L10_0|PSEG_L50_0 VSUBS 635.596a
.ENDS sense_fill_clip
